US09388189B2
b) 4-(N-Methylsulfamoyl)phenyl 4-amino-6-chloropyrimidine-5-carboxylate
4-(N-methylsulfamoyl)phenyl 4,6-dichloropyrimidine-5-carboxylate (1.4 g, 3.18 mmol) was dissolved in dioxane (16 ml) and cooled in an ice bath. Ammonia (2.27 ml, 7N in MeOH) was dropwise added and the mixture was stirred at 0° C. for 6 h. The solvent was removed and ethyl acetate added. The solid precipitate was filtered and washed with ethyl acetate to give 750 mg (69% yield) of the title compound. Purity 100%

reactant | 4-(N-methylsulfamoyl)phenyl 4,6-dichloropyrimidine-5-carboxylate | 3.18 mmol, 1.4 g | ClC1=NC=NC(=C1C(=O)OC1=CC=C(C=C1)S(NC)(=O)=O)Cl | C12H9Cl2N3O4S
reactant | Ammonia | 7N, 2.27 ml | N | H3N
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | 4-(N-Methylsulfamoyl)phenyl 4-amino-6-chloropyrimidine-5-carboxylate | 750 mg, 69% yield | NC1=NC=NC(=C1C(=O)OC1=CC=C(C=C1)S(NC)(=O)=O)Cl | C12H11ClN4O4S
